US04826836
12.3 g (0.5 mol) of 3-(3-trifluoromethyl-phenoxy)-3-methyl-butan-2-one are heated under reflux together with 110 g (1 mol) of 3-chloropropanediol and 10 g of acid ion exchanger (Lewasorb A10) in 600 ml of toluene over a water separator for 14 hours. The cooled reaction mixture is filtered and the filtrate is dried over sodium sulphate and concentrated. The residue is distilled under a high vacuum. 109 g (65% of theory) of 2-[2-(3-trifluoromethyl-phenoxy)-prop-2-yl]-2-methyl-4-chloromethyl-1,3-dioxolane of boiling point 163° C. under 0.2 mbar are obtained.

reactant | 3-(3-trifluoromethyl-phenoxy)-3-methyl-butan-2-one | 0.5 mol, 12.3 g | FC(C=1C=C(OC(C(C)=O)(C)C)C=CC1)(F)F | C12H13F3O2
reactant | 3-chloropropanediol | 1 mol, 110 g | ClCCC(O)O | C3H7ClO2
reactant | water | O | H2O
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(3-trifluoromethyl-phenoxy)-prop-2-yl]-2-methyl-4-chloromethyl-1,3-dioxolane | 109 g, 65% | FC(C=1C=C(OC(C)(C)C2(OCC(O2)CCl)C)C=CC1)(F)F | C15H18ClF3O3
